US07115611B2
D] 3-Chloromethyl-2-cyclopropyl-6-(4-trifluoromethyl-phenyl)-pyridine
0.127 g (0.433 mmol) of the above prepared [2-cyclopropyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-methanol was dissolved in 2.0 ml of CH2Cl2 and treated at 0° C. with 0.063 ml (2 eq.) of SOCl2. The reaction mixture was kept at 0° C. for 5 Min. and at RT for 60 Min. Pouring onto crashed ice/NaHCO3, twofold extraction with AcOEt, washing with water and brine, drying over magnesium sulfate, and evaporation of the solvents afforded 0.137 g of pure title compound as off-white solid.

reactant | [2-cyclopropyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-methanol | C1(CC1)C1=NC(=CC=C1CO)C1=CC=C(C=C1)C(F)(F)F | C16H14F3NO
reactant | SOCl2 | 0.063 ml, 2 eq. | O=S(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 2.0 ml | C(Cl)Cl | CH2Cl2
product | 3-Chloromethyl-2-cyclopropyl-6-(4-trifluoromethyl-phenyl)-pyridine | 0.137 g | ClCC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C1CC1 | C16H13ClF3N
